US07863283B2
(RS)-S-[3-({[6-Bromo-4-(ethylamino)quinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide
According to GWP 6, (RS)-S-[3-({[6-bromo-4-(ethylamino)quinazolin-7-yl]oxy}methyl)-phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide (38 mg, 0.075 mmol) is dissolved in ethanol (5 mL), admixed with sodium ethoxide (19 mg, 0.27 mmol) and stirred at 60° C. for 3 hours. The reaction solution is admixed with saturated sodium bicarbonate solution and extracted with ethyl acetate. After drying of the organic phase over sodium sulphate and removal of the solvent, the residue is subsequently stirred up with methanol and the crystals are filtered off with suction to obtain the desired product in 45% yield (33 mg).

reactant | (RS)-S-[3-({[6-bromo-4-(ethylamino)quinazolin-7-yl]oxy}methyl)-phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide | 0.075 mmol, 38 mg | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C)NCC | C21H23BrN4O4S
reactant | sodium ethoxide | 0.27 mmol, 19 mg | [O-]CC.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (RS)-S-[3-({[6-Bromo-4-(ethylamino)quinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide | 45% yield | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=N)C)NCC | C18H19BrN4O2S
